US08357693B2
tert-butyl 5-(2-(3-(2-(tert-butoxycarbonyl)acetamido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate
A suspension of 2-(tert-butoxycarbonyl)acetic acid (21 mg, 0.11 mmol), PyBOP® (57 mg, 0.11 mmol), DIEA (38 μL, 0.22 mmol) in anhydrous CH2Cl2 (0.5 mL) was stirred at RT for 10 minutes. This solution of activated acid was added to a suspension of tert-butyl 5-(2-(3-aminophenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate (100 mg, 0.22 mmol) and anhydrous CH2Cl2 (1 mL). The reaction mixture was stirred at RT for 1 h. Activated and added another 0.5 equivalent of the acid as described above and stirred for 1 h. Activated and added another 0.3 equivalents of the acid as described above. Stirred for and additional hour and diluted with CH2Cl2. Extracted with H2O (3×) and the organic layer was dried under Na2SO4 and concentrated in vacuo. The residue was purified by flash chromatography on silica (1:1 EtOAc:Hexanes) to give the desired product tert-butyl 5-(2-(3-(2-(tert-butoxycarbonyl)acetamido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate. (123 mg, 0.20 mmol, 90%).

reactant | 2-(tert-butoxycarbonyl)acetic acid | 0.11 mmol, 21 mg | C(C)(C)(C)OC(=O)CC(=O)O | C7H12O4
reactant | PyBOP | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.22 mmol, 38 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | tert-butyl 5-(2-(3-aminophenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | 0.22 mmol, 100 mg | NC=1C=C(C=CC1)C1=NC2=CC=CC=C2C(=N1)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C | C26H24N6O2
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 5-(2-(3-(2-(tert-butoxycarbonyl)acetamido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | C(C)(C)(C)OC(=O)CC(=O)NC=1C=C(C=CC1)C1=NC2=CC=CC=C2C(=N1)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C | C33H34N6O5
